US06174915B1
As described in Example 1(c) for the preparation of N-(8-oxo-4-oxa-1,7-diaza-tricyclo[9.6.1.012,17]octadeca-11(18),12,14,16-tetraen-9-yl)-3-(3-phenyl-1-yl)succinamic acid benzyl ester, 3(R)-amino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid allyl ester trifluoroacetate salt and 3-[2-(4-cyanophenyl)-ethynyl]-2,5-dimethoxy-tetrahydrofuran were heated with trifluoroacetic acid (1 equiv) at 70° C. for 4 hours. Flash column chromatography twice with 0.5% HOAc/15% EtOAc/CH2Cl2 as eluant and azeotrope with n-heptane afforded 800 mg (36%, 43% based on recovered furan) of 3(R)-[3-[(4-cyanophenyl)acetyl]-1H-pyrrol-1-yl]-N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]succinamic acid allyl ester as a brown oil. 1H NMR (CDCl3): δ 7.58 (d, 2H, J=8.1 Hz), 7.47 (dd, 1H, J=1.9, 1.9 Hz), 7.36 (d, 2H, J=8.1 Hz), 6.84 (d, 1H, J=9.0 Hz), 6.74 (dd, 1H, J=2.8, 2.8 Hz), 6.63 (dd, 1H, J=1.6, 2.8 Hz), 6.08 (dd, J=2.8, 6.8 Hz), 5.82 (ddt, 1H, J=5.9, 10.3, 17.1 Hz), 5.26 (ddd, 1H, J=1.2, 2.8, 17.1 Hz), 5.19 (q, 1H, J=7.2 Hz), 4.56 (dddd, 2H, J=1.6, 2.8, 4.4, 15.9 Hz), 4.18 (d, 1H, J=9.0 Hz), 4.05 (s, 2H), 3.34 (dd, 1H, J=7.2, 16.8 Hz), 2.99 (dd, 1H, J=7.2, 16.8 Hz), 2.72 (d, 3H, J=5.0 Hz), 0.90 (s, 9H). 13C NMR (CDCl3): δ 191.2, 170.2, 169.4, 168.0, 140.6, 132.2, 131.3, 130.3, 125.7, 125.7, 122.0, 119.0, 118.9, 110.5, 110.4, 66.0, 61.0, 59.4, 46.1, 37.5, 34.8, 31.9, 29.0, 26.5, 26.0. IR (KBr): 3320, 2965, 229, 1736, 1648, 1531, 1173 cm−1. HRFABMS: Calculated for C27H33N4O5 (M+H+): 493.2451. Found 493.2462. Anal. Calculated for C27H32N4O5•0.2 H2O•0.2 CH2Cl2: C, 63.66; H, 6.44; N, 10.92. Found: C, 63.86; H, 6.56; N, 10.58.

reactant | 3(R)-amino-N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)succinamic acid allyl ester trifluoroacetate salt | FC(C(=O)O)(F)F.C(C=C)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)N)=O
reactant | 3-[2-(4-cyanophenyl)-ethynyl]-2,5-dimethoxy-tetrahydrofuran | C(#N)C1=CC=C(C=C1)C#CC1C(OC(C1)OC)OC | C15H15NO3
reactant | trifluoroacetic acid | 1 equiv | FC(C(=O)O)(F)F | C2HF3O2
reactant | HOAc | CC(=O)O | C2H4O2
solvent | n-heptane | CCCCCCC | C7H16
product | 3(R)-[3-[(4-cyanophenyl)acetyl]-1H-pyrrol-1-yl]-N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]succinamic acid allyl ester | 800 mg | C(C=C)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)N1C=C(C=C1)C(CC1=CC=C(C=C1)C#N)=O)=O | C27H32N4O5
